US04663331
In a similar manner to Example 1, 3,4-dimethoxy-1,2,5-thiadiazole-1,1-dioxide (1.07 g) and 7-(dimetylamino)hept-5-ynylamine (0.92 g) were reacted to give a solution of 3-methoxy-4-[7-dimethylaminohept-5-ynylamino]-1,2,5-thiadiazole-1,1-dioxide. Reaction with ammonia gas and purification as in Example 1 gave the title compound (1.08 g), m.p. 172°-4° C. (recrystallisation from acetonitrile).

reactant | 3,4-dimethoxy-1,2,5-thiadiazole-1,1-dioxide | 1.07 g | COC1=NS(N=C1OC)(=O)=O | C4H6N2O4S
reactant | 7-(dimetylamino)hept-5-ynylamine | 0.92 g | CN(CC#CCCCCN)C | C9H18N2
product | 3-methoxy-4-[7-dimethylaminohept-5-ynylamino]-1,2,5-thiadiazole-1,1-dioxide | COC1=NS(N=C1NCCCCC#CCN(C)C)(=O)=O | C12H20N4O3S
